US07439237B2
(4f) (R)-3-(4-amino-3-chloro-5-methyl-phenyl)-2-{[4-(2-oxo-1,2,4,5-tetrahydro-benzo[d][1,3]diazepin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid
The mixture of 4.1 g (7.8 mmol) ethyl (R)-3-(4-amino-3-chloro-5-methyl-phenyl)-2-{[4-(2-oxo-1,2,4,5-tetrahydro-benzo[d][1,3]diazepin-3-yl)-piperidine-1-carbonyl]-amino}-propionate, 60 ml of methanol and 60 ml THF was combined with a solution of 1.5 g (36.8 mmol) lithium hydroxide in 30 ml of water and stirred for 20 hours at 40° C. The reaction mixture was evaporated down under reduced pressure, the residue was taken up in 50 ml of water and acidified by the addition of 2-molar hydrochloric acid solution. The resulting precipitate was suction filtered and dried at 35° C. in the circulating air dryer.

reactant | ethyl (R)-3-(4-amino-3-chloro-5-methyl-phenyl)-2-{[4-(2-oxo-1,2,4,5-tetrahydro-benzo[d][1,3]diazepin-3-yl)-piperidine-1-carbonyl]-amino}-propionate | 7.8 mmol, 4.1 g | NC1=C(C=C(C=C1C)C[C@H](C(=O)OCC)NC(=O)N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O)Cl | C27H34ClN5O4
reactant | methanol | 60 ml | CO | CH4O
reactant | THF | 60 ml | C1CCOC1 | C4H8O
reactant | lithium hydroxide | 36.8 mmol, 1.5 g | [OH-].[Li+]
solvent | water | 30 ml | O | H2O
product | (R)-3-(4-amino-3-chloro-5-methyl-phenyl)-2-{[4-(2-oxo-1,2,4,5-tetrahydro-benzo[d][1,3]diazepin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid | NC1=C(C=C(C=C1C)C[C@H](C(=O)O)NC(=O)N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O)Cl | C25H30ClN5O4
